US04648996
2-chloro-6-hydroxy-benzaldehyde was alkylated with 1-bromononane as in Example 1 to give 2-chloro-6-nonyloxy benzaldehyde. Reduction with sodium borohydroxide as in Example 1 gave 2-chloro-6-nonyloxy benzyl alcohol which on treatment with triphenylphosphine hydrobromide in acetonitrile as in Example 1 yielded [[2-chloro-6-nonyl-oxy]phenyl]methyl]triphenyl phosphonium bromide. Condensation with 7-formyl-3-methyl-2,4,6-octatrienoic acid ethyl ester as described in Example 3 produced (All E)-9-[2-chloro-6-(nonyloxy)phenyl]-3,7-dimethyl-2,4,6,8-nonatetraenoic acid ethyl ester. The ester was subjected to hydrolysis, as in Example 5, to produce (All-E)-9-[2-chloro-6-(nonyloxy)phenyl]-3,7-dimethyl-2,4,6,8-nonatetraenoic acid mp 129°-131° (from ethyl acetate/hexane mixture).

reactant | 2-chloro-6-hydroxy-benzaldehyde | ClC1=C(C=O)C(=CC=C1)O | C7H5ClO2
reactant | 1-bromononane | BrCCCCCCCCC | C9H19Br
product | 2-chloro-6-nonyloxy benzaldehyde | ClC1=C(C=O)C(=CC=C1)OCCCCCCCCC | C16H23ClO2
